US09238640B2
To a suspension of 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one (1.50 g, 4.41 mmol) in N,N-dimethylformamide (15 mL), carbon tetrabromide (1.60 g, 4.85 mmol), and triphenylphosphine (1.30 g, 4.85 mmol) were added and the reaction mixture was stirred at room temperature for 16 hours. The solvent was evaporated in vacuo and the product was purified by the Simpliflash system, using 1-2% methanol in CH2Cl2 as eluent, to give 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one as a white solid. Yield: 1.77 g (quantitative).

reactant | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one | 4.41 mmol, 1.50 g | OCCOC1=C(C=C(C=C1C)C1=NC2=CC=C(C=C2C(N1)=O)OC)C | C19H20N2O4
reactant | carbon tetrabromide | 4.85 mmol, 1.60 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 4.85 mmol, 1.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC=C(C=C2C(N1)=O)OC)C | C19H19BrN2O3
